US04123537
A solution of 4-cyano-6-(1,1-dimethylethyl)-3-pyridinol (5.7 g., 0.032 mole) in methanol -- 12N hydrochloric acid (30:1; v:v; 310 ml.) is hydrogenated in the presence of 10% palladium on charcoal (1 g.) in a Parr apparatus at 25° C. and 40-45 p.s.i. pressure until the theoretical quantity of hydrogen has been consumed. Then the hydrogenation mixture is filtered and the collected catalyst, washed with ethanol. Evaporation (in vacuo) of the combined filtrate and washings leaves the 4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol dihydrochloride as a residual solid (7.9 g., 98%), m.p. 304°-306° C. with dec. Recrystallization of the solid from ethanol-ether-water (100:100:4; v:v:v) affords an analytical sample of 4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol dihydrochloride as colorless crystals, m.p. 304°-306° C. with dec.

reactant | 4-cyano-6-(1,1-dimethylethyl)-3-pyridinol | 0.032 mole, 5.7 g | C(#N)C1=C(C=NC(=C1)C(C)(C)C)O | C10H12N2O
reactant | hydrochloric acid | 12N, 310 ml | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | 4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol dihydrochloride | Cl.Cl.NCC1=C(C=NC(=C1)C(C)(C)C)O | InChI=1S/C10H16N2O.2ClH/c1-10(2,3)9-4-7(5-11)8(13)6-12-9;;/h4,6,13H,5,11H2,1-3H3;2*1H
